US04894387
Phenyl 4-aminobenzenemethanesulphonate hydrochloride
A solution of phenyl 4-nitrobenzenemethanesulphonate (1.6 g) in ethyl acetate (200 ml) and concentrated hydrochloric acid (1 ml) was hydrogenated over prereduced 5% palladium oxide on charcoal (50% aqueous paste 0.4 g) in ethanol (10 ml) at atmospheric pressure and temperature. The catalyst was filtered off and the filtrate concentrated to give the title compound as a solid (1.55 g). A small sample (0.2 g) was crystallized from isopropyl acetate (10 ml) and a few drops of methanol to give analytically pure material (70 mg) m.p. 147°-148°.

reactant | phenyl 4-nitrobenzenemethanesulphonate | 1.6 g | [N+](=O)([O-])C1=CC=C(C=C1)CS(=O)(=O)OC1=CC=CC=C1 | C13H11NO5S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | Phenyl 4-aminobenzenemethanesulphonate hydrochloride | 1.55 g | Cl.NC1=CC=C(C=C1)CS(=O)(=O)OC1=CC=CC=C1 | InChI=1S/C13H13NO3S.ClH/c14-12-8-6-11(7-9-12)10-18(15,16)17-13-4-2-1-3-5-13;/h1-9H,10,14H2;1H
